US08809342B2
Step A: N-(4-iodobenzylidene)-2-methylpropane-2-sulfinamide
4-Iodobenzaldehyde (1.26 g, 5.43 mmol) was dissolved in dichloromethane (41.8 mL). 2-methylpropane-2-sulfinamide (0.679 g, 5.43 mmol) was added, followed by titanium(IV) ethoxide (2.25 mL, 10.9 mmol). The reaction was heated to reflux for 1 hour. The reaction was then allowed to cool to room temperature and stir for 18 hours. Methanol (8.0 mL) and saturated sodium bicarbonate (1.5 mL) were added to the reaction mixture. The resulting slurry was filtered through sodium sulfate, and rinsed with ethyl acetate. The filtrate was concentrated to yield the title compound N-(4-iodobenzylidene)-2-methylpropane-2-sulfinamide (1.69 g, 93%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 8.51 (s, 1H), 7.80-7.84 (m, 2H), 7.53-7.57 (m, 2H), 1.25 (s, 9H). MS (M+1): 336.0.

reactant | 4-Iodobenzaldehyde | 5.43 mmol, 1.26 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | 2-methylpropane-2-sulfinamide | 5.43 mmol, 0.679 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | Methanol | 8.0 mL | CO | CH4O
reactant | sodium bicarbonate | 1.5 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 41.8 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) ethoxide | 10.9 mmol, 2.25 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-(4-iodobenzylidene)-2-methylpropane-2-sulfinamide | 1.69 g, 93% | IC1=CC=C(C=NS(=O)C(C)(C)C)C=C1 | C11H14INOS
